*  Generated for: PrimeSim
*  Design library name: th_analog_circuits
*  Design cell name: th_differential_csvco_with_footer
*  Design view name: schematic
.lib 'saed32nm.lib' TT
.param vctrl=500m vsupp=1.2
*Custom Compiler Version S-2021.09
*Mon Feb 21 10:00:40 2022

.global gnd!
********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_differential_inverter
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt th_differential_inverter vdd vgn vgp vin+ vin- vout+ vout- gnd_1
xm1 vout- vin- vdd vgp p105 w=0.1u l=0.03u nf=1 m=1
xm0 vout+ vin+ vdd vgp p105 w=0.1u l=0.03u nf=1 m=1
xm3 vout- vin- gnd_1 vgn n105 w=0.1u l=0.03u nf=1 m=1
xm2 vout+ vin+ gnd_1 vgn n105 w=0.1u l=0.03u nf=1 m=1
.ends th_differential_inverter

********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_buffer
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt th_buffer vdd gnd_1 in out
xm1 out net16 vdd vdd p105 w=0.1u l=0.03u nf=1 m=1
xm0 net16 in vdd vdd p105 w=0.1u l=0.03u nf=1 m=1
xm3 out net16 gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm2 net16 in gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
.ends th_buffer

********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_differential_csvco_with_footer
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xm7 net27 net12 gnd! gnd! n105 w=0.1u l=0.03u nf=1 m=1
xm6 net23 net12 gnd! gnd! n105 w=0.1u l=0.03u nf=1 m=1
xm5 net19 net12 gnd! gnd! n105 w=0.1u l=0.03u nf=1 m=1
xm0 net5 net12 gnd! gnd! n105 w=0.1u l=0.03u nf=1 m=1
xm4 net4 net5 net1 net1 p105 w=0.1u l=0.03u nf=1 m=1
xm3 net8 net5 net1 net1 p105 w=0.1u l=0.03u nf=1 m=1
xm2 net11 net5 net1 net1 p105 w=0.1u l=0.03u nf=1 m=1
xm1 net5 net5 net1 net1 p105 w=0.1u l=0.03u nf=1 m=1
xi7 net4 gnd! net1 net6 net7 net3 net2 net27 th_differential_inverter
xi6 net8 gnd! net1 net9 net10 net7 net6 net23 th_differential_inverter
xi5 net11 gnd! net1 net3 net2 net10 net9 net19 th_differential_inverter
v9 net12 gnd! dc='vctrl'
v8 net1 gnd! dc='vsupp'
xi13 net1 gnd! net2 out- th_buffer
xi12 net1 gnd! net3 out+ th_buffer








.tran '10p' '2n' name=tran

.option primesim_remove_probe_prefix = 0
.probe v(*) i(*) level=1
.probe tran v(net2) v(net3) v(out+) v(out-)

.temp 25

.ic  v(net3)=0  v(net2)=0.8

.option primesim_output=wdf


.option parhier = LOCAL






.end
